US07993797B2
Step 1: Preparation of C6H5—(CF2)2—O—(CF2)2—SO2F (see also FIG. 4)
7.82 g (100 mmol) of benzene, 8.52 g (20 mmol) of 5-iodooctafluoro-3-oxapentanesulfonyl fluoride, 4.84 g (20 mmol) of benzoyl peroxide, 0.36 g (2 mmol) of copper (II) acetate, and 100 mL of acetic acid were refluxed for 4 hrs at 115° C. Then the mixture was stirred at room temperature overnight. The mixture was diluted with water (˜100 mL), and the product was extracted with hexane and washed with water until neutral pH was obtained. The solvent was removed to yield dark yellow oil. The product was purified by distillation under reduced pressure (˜27 inch Hg). The first faction was composed of a mixture of the product plus iodobenzene (2.8 g, approximately 1:1 ratio). The second fraction consisted of 2.1 g of pure product (colorless oil) (28% yield).

reactant | benzene | 100 mmol, 7.82 g | C1=CC=CC=C1 | C6H6
reactant | 5-iodooctafluoro-3-oxapentanesulfonyl fluoride | 20 mmol, 8.52 g | IC(C(OC(C(S(=O)(=O)F)(F)F)(F)F)(F)F)(F)F | C4F9IO3S
reactant | benzoyl peroxide | 20 mmol, 4.84 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
solvent | water | ˜100 mL | O | H2O
catalyst | copper (II) acetate | 2 mmol, 0.36 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | C6H5—(CF2)2—O—(CF2)2—SO2F | 2.1 g, 28% yield | C1(=CC=CC=C1)C(F)(F)C(F)(F)OC(F)(F)C(F)(F)S(=O)(=O)F | C10H5F9O3S
